US05332750
15 mg of NaBH4 are added at 20° to a solution of 370 mg of 6-butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-3-formyl-1,2-dihydro-2-oxopyridine in 5 ml of isopropanol, with stirring. After further stirring (1 hour), dilute hydrochloric acid is added dropwise until the evolution of H2 has ceased, and the mixture is evaporated. 6-Butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-3-hydroxymethyl-1,2-dihydro-2-oxopyridine is obtained after conventional working-up.

reactant | NaBH4 | 15 mg | [BH4-].[Na+]
reactant | 6-butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-3-formyl-1,2-dihydro-2-oxopyridine | 370 mg | C(CCC)C1=CC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)C=O | C24H22N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 6-Butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-3-hydroxymethyl-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)CO | C24H24N2O2
